US05122601
In a dry 5-L four-neck flask is dissolved 70 grams of sucrose (204.5 mmol) in 1 liter dry dimethylformamide (DMF) and dry triethylamine (200 ml, 145 grams, 1,423 mmol). The solution is allowed to attain a temperature of 25° to 30° C. and treated with a solution of trityl chloride (260 grams, 935.2 mmol, 4.5 equiv.) in dimethylformamide (600 ml), added dropwise over 1 hour. After the addition is complete, the reaction mixture is heated to a temperature of 50° C. and allowed to stir for 48 hours at that temperature. After 2 days, the reaction mixture is filtered through a short pad of silica gel to remove the precipitated triethylammonium hydrochloride and the residue is washed with methylene chloride:acetone (4:1). The effluent is then concentrated to a residue, which is reconstituted in methylene chloride and washed successively with 1 N hydrochloric acid, saturated sodium bicarbonate solution, water, and brine and then dried over anhydrous sodium sulfate. The dry organic extract is then filtered and concentrated in vacuo to provide a yellow foamy solid. This material is then applied on a silica gel column (230 to 400 mesh, 10 cm x 50 cm) packed with methylene chloride and successively eluted with methylene chloride, then 10% acetone in methylene chloride, followed by elution with 20% acetone in methylene chloride. The desired tri-O-tritylsucrose elutes with 20% acetone in methylene chloride and has an Rf of 0.21 in the same solvent. The amount of 1',6,6'-tri-O-tritylsucrose obtained by this method of synthesis and isolation is typically between 146 to 150 grams or 67% to 68.8%. On scales between 1 mmol and 50 mmol(314 mg to 15.7 grams) yields average about 76%.

reactant | sucrose | 204.5 mmol, 70 grams | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | triethylamine | 1,423 mmol, 200 ml, 145 grams | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 935.2 mmol, 260 grams, 4.5 equiv. | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 1',6,6'-tri-O-tritylsucrose | C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)OC[C@@H]4[C@@H]([C@@H]([C@H](C(O4)O[C@]5([C@H]([C@@H]([C@H](O5)COC(C6=CC=CC=C6)(C7=CC=CC=C7)C8=CC=CC=C8)O)O)COC(C9=CC=CC=C9)(C1=CC=CC=C1)C1=CC=CC=C1)O)O)O | C69H64O11
